US04186144
To a solution of pinacolone (100.16 g, 1 mol) in methanol (300 ml) is introduced gaseous chlorine (70.91 g, 1 mol) at 15-20° C. over a period of 1 hour. The reaction mixture is neutralized with a 48% solution of sodium hydroxide in methanol (285 ml) and then aqueous solution of sodium hydrogen carbonate (4.20 g) in that order. After dilution with methanol (40 ml), the resulting mixture is mixed with an aqueous solution (137 ml) of sodium cyanide (58.81 g, 1.2 mol) and refluxed for 1 hour. The methanol is evaporated under atmospheric pressure over a period of 1.5 hours. The residue is mixed with a 4% aqueous sodium hydroxide (650 g) solution and shaken with benzene (300 ml) to remove neutral material (10.78 g). Hydrochloric acid (35%) (92.60 g) is poured into said alkaline aqueous layer below 15° C., and the mixture is shaken with benzene (750 ml). The benzene layer is washed with water, then mixed with an aqueous solution (44 ml) of sodium hydrogen carbonate (0.66 g), and the benzene layer is evaporated under atmospheric pressure. A solution of the residue is adjusted to pH 7.0 by stirring with benzene (142 ml), water (30 ml) then 35% hydrochloric acid (0.37 g). The benzene layer is dried and concentrated to give cyanopinacolone (106.70 g) as crystals melting at 64° to 67° C. Yield is 85 %. The product contains only 0.09% of 2-hydroxy-2-t-butylsuccinonitrile as a contaminant.

reactant | pinacolone | 1 mol, 100.16 g | CC(C(C)(C)C)=O | C6H12O
reactant | chlorine | 1 mol, 70.91 g | ClCl | Cl2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium cyanide | 1.2 mol, 137 ml, 58.81 g | [C-]#N.[Na+]
solvent | methanol | 300 ml | CO | CH4O
solvent | methanol | 285 ml | CO | CH4O
catalyst | sodium hydrogen carbonate | 4.20 g | C(O)([O-])=O.[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | cyanopinacolone | 106.70 g, Yield is 85 % | C(#N)CC(C(C)(C)C)=O | C7H11NO
